US07423185B2
Methyl 4-hydroxy-2-methoxybenzoate
To a solution of methyl 4-benzyloxy-2-methoxybenzoate (3.08 g) in methanol (5 mL)/tetrahydrofuran (7.5 mL) was added 10% palladium-carbon (0.3 g) at room temperature under an atmosphere of argon, and the mixture was stirred at that temperature for 2 hrs under an atmosphere of hydrogen. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo to afford the title compound (2.02 g).

reactant | methyl 4-benzyloxy-2-methoxybenzoate | 3.08 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OC | C16H16O4
reactant | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | Methyl 4-hydroxy-2-methoxybenzoate | 2.02 g | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
